US04001016
89.6 g butyl acrylate
The polymer was dissolved in 250 g methyl glycol acetate and, after the addition of 800 mg p-toluene-sulfonic acid and 80 mg hydroquinone, mixed with 77 g N-methoxymethyl-acrylamide, sensitized as described in Example 1, and used for the production of a relief image.

reactant | p-toluene-sulfonic acid | 800 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydroquinone | 80 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | N-methoxymethyl-acrylamide | 77 g | COCNC(C=C)=O | C5H9NO2
solvent | methyl glycol acetate | 250 g | CC(=O)OCCOC | C5H10O3
product | butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
